US08349886B2
1-[5-(1,2-dihydroxy-2-methylpropyl)pyridin-2-yl]-5-(4-methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)-6-(tetrahydro-2H-pyran-4-yl)hexane-1,4-dione
A mixture of 4-(4-methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)-5-(tetrahydro-2H-pyran-4-yl)pent-1-en-3-one (178 mg), 5-(1,2-dihydroxy-2-methylpropyl)pyridine-2-carbaldehyde (132 mg), 3-benzyl-5-(2-hydroxyethyl)-4-methyl-1,3-thiazol-3-ium chloride (18 mg), triethylamine (30 μL), tetrahydrofuran (5 mL) and ethanol (5 mL) was heated under reflux for 3 hr under argon stream. The reaction solution was poured into ice water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to give the title compound (268 mg, yield 93%) as a pale-yellow oil from the fraction eluted with ethyl acetate. MS: 511 (MH+).

reactant | 4-(4-methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)-5-(tetrahydro-2H-pyran-4-yl)pent-1-en-3-one | 178 mg | COC1=C2C(=NC=C1)N(N=C2)C(C(C=C)=O)CC2CCOCC2 | C17H21N3O3
reactant | 5-(1,2-dihydroxy-2-methylpropyl)pyridine-2-carbaldehyde | 132 mg | OC(C(C)(C)O)C=1C=CC(=NC1)C=O | C10H13NO3
reactant | triethylamine | 30 μL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | 3-benzyl-5-(2-hydroxyethyl)-4-methyl-1,3-thiazol-3-ium chloride | 18 mg | [Cl-].C(C1=CC=CC=C1)[N+]1=CSC(=C1C)CCO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-[5-(1,2-dihydroxy-2-methylpropyl)pyridin-2-yl]-5-(4-methoxy-1H-pyrazolo[3,4-b]pyridin-1-yl)-6-(tetrahydro-2H-pyran-4-yl)hexane-1,4-dione | 268 mg, yield 93% | OC(C(C)(C)O)C=1C=CC(=NC1)C(CCC(C(CC1CCOCC1)N1N=CC=2C1=NC=CC2OC)=O)=O | C27H34N4O6
